US07846929B2
To a solution of the 1-(4-bromo-indazol-1-yl)-ethanone A (3.09 g, 12.9 mmol) in MeOH (50 mL) was added 6N aqueous HCl (30 mL) and the mixture was stirred at room temperature for 7 h. The MeOH was evaporated and the mixture partitioned between EtOAc (2×50 mL) and water (50 mL). The combined organic layers were washed with brine (50 mL), separated and dried (MgSO4). The solvent was removed by evaporation under reduced pressure to give 4-bromo-1H-indazole B (2.36 g, 93%).

reactant | 1-(4-bromo-indazol-1-yl)-ethanone | BrC1=C2C=NN(C2=CC=C1)C(C)=O | C9H7BrN2O
reactant | HCl | 6N, 30 mL | Cl | ClH
solvent | MeOH | 50 mL | CO | CH4O
product | 4-bromo-1H-indazole | BrC1=C2C=NNC2=CC=C1 | C7H5BrN2
